US03935261
A mixture of 2-(6-hydroxyhexyl)-2-cyclopenten-1-one (10.5 g., 0.058 mole), acetone cyanohydrin (5.6 g., 0.065 mole), 6% aqueous sodium carbonate (5.2 ml.) and methanol (35 ml.) was stirred and heated under reflux for 4 hours. Methanol was removed in vacuo, water (70 ml.) was added and the mixture was extracted with diethyl ether and dried over magnesium sulphate. The solvent was removed by evaporation and the residue was distilled under reduced pressure to give 2-(6-hydroxyhexyl)-3-oxocyclopentanecarbonitrile (8.8 g., 73%), b.p. 135°-178°C./0.15 mm.Hg, nD25 1.4812.

reactant | 2-(6-hydroxyhexyl)-2-cyclopenten-1-one | 0.058 mole, 10.5 g | OCCCCCCC=1C(CCC1)=O | C11H18O2
reactant | acetone cyanohydrin | 0.065 mole, 5.6 g | CC(C#N)(O)C | C4H7NO
reactant | sodium carbonate | 5.2 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 35 ml | CO | CH4O
product | 2-(6-hydroxyhexyl)-3-oxocyclopentanecarbonitrile | 8.8 g, 73% | OCCCCCCC1C(CCC1=O)C#N | C12H19NO2
